US06136810
Manganese dioxide (1.00 g) was added to a solution of 366 mg (1.1 mmol) of 4-(3-chlorophenyl)-1-ethyl-7-(1-hydroxyethyl)pyrido[2,3-d]pyrimidin-2(1H)-one dissolved in 20 ml of chloroform, and the mixture was heated under reflux for 1 hour. The reaction solution was mixed with 1.00 g of manganese dioxide and heated under reflux for 1 hour and then again mixed with 500 mg of manganese dioxide and heated under reflux for 1 hour. After removing insoluble matter by filtration, the filtrate was concentrated under a reduced pressure and the resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate-chloroform) to give 303 mg of 7-acetyl-4-(3-chlorophenyl)-1-ethylpyrido[2,3-d]pyrimidin-2(1H)-one. The yield was 84%.

reactant | 4-(3-chlorophenyl)-1-ethyl-7-(1-hydroxyethyl)pyrido[2,3-d]pyrimidin-2(1H)-one | 1.1 mmol, 366 mg | ClC=1C=C(C=CC1)C=1C2=C(N(C(N1)=O)CC)N=C(C=C2)C(C)O | C17H16ClN3O2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | Manganese dioxide | 1.00 g | [O-2].[O-2].[Mn+4]
catalyst | manganese dioxide | 1.00 g | [O-2].[O-2].[Mn+4]
catalyst | manganese dioxide | 500 mg | [O-2].[O-2].[Mn+4]
product | 7-acetyl-4-(3-chlorophenyl)-1-ethylpyrido[2,3-d]pyrimidin-2(1H)-one | 303 mg, yield was 84% | C(C)(=O)C=1C=CC2=C(N(C(N=C2C2=CC(=CC=C2)Cl)=O)CC)N1 | C17H14ClN3O2
